US05516774
N-(2,3-Dimethylphenyl)-4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)benzamide
A mixture of 0.332 g of 4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)benzoic acid, 0.222 g of triethylamine, 0.157 g of 2,3-dimethylaniline hydrochloride, 0.15 ml of diethylphosphoryl cyanide in 20 ml of dichloromethane is heated on a steam bath for 3 hours. The mixture is washed with H2O, 1M NaHCO3, H2O, 1N HCl, brine and dried (Na2SO4). The solution is filtered through a thin pad of hydrous magnesium silicate and the filter cake washed with dichloromethane. The filtrate is concentrated to dryness under vacuum and the residue crystallized from dichloromethane-hexane to give 0.11 g of crystals, m.p. 239°-240° C.

reactant | 4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)benzoic acid | 0.332 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C(=O)O)C=C1 | C20H16N2O3
reactant | triethylamine | 0.222 g | C(C)N(CC)CC | C6H15N
reactant | 2,3-dimethylaniline hydrochloride | 0.157 g | Cl.CC1=C(N)C=CC=C1C
reactant | diethylphosphoryl cyanide | 0.15 ml | C(C)P(=O)(CC)C#N | C5H10NOP
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(2,3-Dimethylphenyl)-4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)benzamide | 0.11 g | CC1=C(C=CC=C1C)NC(C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)=O | C28H25N3O2
